US07781431B2
Step 4: methyl 5-(4-chlorophenyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate
A solution (0.11 M) of methyl 5-(4-chlorophenyl)-6-cyclohex-1-en-1-yl-4H-thieno[3,2-b]pyrrole-2-carboxylate in TFA at 0° C. was treated with triethylsilane (1.5 eq.). The reaction mixture was stirred at 0° C. for 2 h then solvent was evaporated to give the title compound (99%) as a solid.

reactant | methyl 5-(4-chlorophenyl)-6-cyclohex-1-en-1-yl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 0.11 M | ClC1=CC=C(C=C1)C1=C(C2=C(N1)C=C(S2)C(=O)OC)C2=CCCCC2 | C20H18ClNO2S
reactant | triethylsilane | 1.5 eq. | C(C)[SiH](CC)CC | C6H16Si
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | methyl 5-(4-chlorophenyl)-6-cyclohexyl-4H-thieno[3,2-b]pyrrole-2-carboxylate | 99% | ClC1=CC=C(C=C1)C1=C(C2=C(N1)C=C(S2)C(=O)OC)C2CCCCC2 | C20H20ClNO2S
